US04628057
(1) (1RS,3RS)-cis-1-Hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as described in Reference Example 2-(1) using methyl (1RS,3RS)-cis-1-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate (3.124 g), 1N NaOH (13.2 ml) and methanol (550 ml), there is obtained the title compound (2.66 g, 90%), m.p. 241°-242° C.

reactant | methyl (1RS,3RS)-cis-1-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate | 3.124 g | OC[C@@H]1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)OC | C14H16N2O3
reactant | NaOH | 1N, 13.2 ml | [OH-].[Na+]
solvent | methanol | 550 ml | CO | CH4O
product | (1RS,3RS)-cis-1-Hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 2.66 g, 90% | OC[C@@H]1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C13H14N2O3
